testeur
*SPICE Netlist generated by Advanced Sim server on 2023-03-13 20:26:29
.options MixedSimGenerated

*Schematic Netlist:
CC1 Vout 0 11nF
LL Vout Vin 0.22
RR1 0 Vout 1k
RRs NetRs_1 Vin 50
VV1 NetRs_1 0 DC 0 SIN(0 1 1K 0 0 0) AC 1 0
VV+? VDD 0 5
VV-? VSS 0 -5

.PLOT AC {dB(MAG(v(Vout)/v(Vin)))} =PLOT(1) =AXIS(1)

*Selected Circuit Analyses:
.AC DEC 10 1k 1meg

.END